US08389524B2
(a) Ethyl 5,6,7,8-tetrahydro-3-isoquinolinecarboxylate
A solution of 1,7-octadiyne (4.00 ml, 30.1 mmol) and ethyl cyanoformate (2.95 ml, 30.1 mmol) in dry degassed 1,4-dioxane (500 ml) under argon at rt was treated with cyclopentadienyl-Cobalt(I)-dicarbonyl (0.814 g, 4.52 mmol) and then heated at reflux for 18 h. Reaction was then evaporated, treated with toluene (100 ml), re-evaporated, dissolved in DCM (100 ml), filtered through a short pad of Kieselguhr, eluting with DCM, organic extracts evaporated, chromatographed (0-100% DCM:40-60 Petroleum ether then 0-10% methanol/DCM) to give product as an impure brown oil (1.27 g, 21%).

reactant | 1,7-octadiyne | 30.1 mmol, 4.00 ml | C#CCCCCC#C | C8H10
reactant | ethyl cyanoformate | 30.1 mmol, 2.95 ml | C(#N)C(=O)OCC | C4H5NO2
product | Ethyl 5,6,7,8-tetrahydro-3-isoquinolinecarboxylate | 1.27 g, 21% | C1=NC(=CC=2CCCCC12)C(=O)OCC | C12H15NO2
